US06525064B1
A mixture of ammonium acetate (95 g) and tert-butyl 2-(2,6,7-trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl)ethylcarbamate (9.5 g) was heated at 160° C. in a sealed tube for 24 hours. The reaction mixture was allowed to cool to ambient temperature and then it was partitioned between water and chloroform. The aqueous layer was made basic (pH 13) with 50% sodium hydroxide and then extracted with chloroform (10×400 mL). The combined organics were dried over magnesium sulfate and then concentrated under reduced pressure to provide a brown solid. The solid was dissolved in warm isopropanol (80 mL) and then combined with 1M hydrochloric acid in diethyl ether (23.7 mL). The resulting precipitate was isolated by filtration, washed with cold isopropanol and diethyl ether, and then dried in a vacuum oven at 80° C. overnight to provide 5.0 g of N-[2-(4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)ethyl]acetamide hydrochloride as a white solid, m.p. >250° C. Analysis: Calculated for: C13H19N5O·1.00 HCl: % C, 52.43; % H, 6.77; % N, 23.52; Found: % C, 52.25; % H, 6.81; % N, 23.41.

reactant | ammonium acetate | 95 g | C(C)(=O)[O-].[NH4+]
reactant | tert-butyl 2-(2,6,7-trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl)ethylcarbamate | 9.5 g | CC=1N(C2=C(C(=NC(=C2C)C)OC2=CC=CC=C2)N1)CCNC(OC(C)(C)C)=O | C22H28N4O3
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | isopropanol | 80 mL | C(C)(C)O | C3H8O
solvent | diethyl ether | 23.7 mL | C(C)OCC | C4H10O
product | N-[2-(4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)ethyl]acetamide hydrochloride | 5.0 g | Cl.NC1=NC(=C(C2=C1N=C(N2CCNC(C)=O)C)C)C | InChI=1S/C13H19N5O.ClH/c1-7-8(2)16-13(14)11-12(7)18(9(3)17-11)6-5-15-10(4)19;/h5-6H2,1-4H3,(H2,14,16)(H,15,19);1H
